US06987114B1
1-(Acetonyl)-5-ethyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione
5-Ethyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione and chloroacetone were reacted by the same way with the example 1 to obtain the titled compound (145 mg, yield: 44%).

reactant | 5-Ethyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione | C(C)C=1C(NC(NC1C(C1=CC(=CC(=C1)C)C)=O)=O)=O | C15H16N2O3
reactant | chloroacetone | ClCC(C)=O | C3H5ClO
product | 1-(Acetonyl)-5-ethyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione | 145 mg, yield: 44% | C(C(=O)C)N1C(NC(C(=C1C(C1=CC(=CC(=C1)C)C)=O)CC)=O)=O | C18H20N2O4
